US04800212
7-Bromo-3,3-dimethyl-3,4-dihydronaphthalene
A solution of 7-bromo-3,3-dimethyl-1,2,3,4-tetrahydro-1-naphthol (7.0 g) and p-toluene sulphonic acid (0.5 g) in benzene (100 ml) was heated under reflux, using a Dean-Stark water separator, for 1.5 hours. After cooling, solvent was removed in vacuo, and the residue partitioned between ether and water. The combined ether extracts were washed with sodium bicarbonate solution, water, brine, then dried over sodium sulphate. Removal of drying agent and solvent gave the title compound as an oil (6.2 g) having:

reactant | 7-bromo-3,3-dimethyl-1,2,3,4-tetrahydro-1-naphthol | 7.0 g | BrC1=CC=C2CC(CC(C2=C1)O)(C)C | C12H15BrO
reactant | p-toluene sulphonic acid | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 7-Bromo-3,3-dimethyl-3,4-dihydronaphthalene | 6.2 g | BrC1=CC=C2CC(C=CC2=C1)(C)C | C12H13Br
